US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-(2-naphthylthio)purine
6-Amino-9-benzyl-8-bromo-2-(2-naphthylthio)purine (33 mg, 0.043 mmol) in a mixture of concentrated hydrochloric acid (20 ml) and dimethyl sulfoxide (7 ml) was refluxed for 6 hours under heating. The reaction mixture was made basic with 28% aqueous ammonia, and the resulting crystals were filtered, washed with water and the crude product was purified by thin-layer chromatography to give the subject compound (6 mg, yield 35%).

reactant | 6-Amino-9-benzyl-8-bromo-2-(2-naphthylthio)purine | 0.043 mmol, 33 mg | NC1=C2N=C(N(C2=NC(=N1)SC1=CC2=CC=CC=C2C=C1)CC1=CC=CC=C1)Br | C22H16BrN5S
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | ammonia | N | H3N
reactant | dimethyl sulfoxide | 7 ml | CS(=O)C | C2H6OS
product | 6-Amino-9-benzyl-8-hydroxy-2-(2-naphthylthio)purine | 6 mg, yield 35% | NC1=C2N=C(N(C2=NC(=N1)SC1=CC2=CC=CC=C2C=C1)CC1=CC=CC=C1)O | C22H17N5OS
